US04994106
(a) 4(4-Ethylphenyl)-3-buten-2-one
20 ml of 10% strength sodium hydroxide solution is added to a mixture of 111.4 (0.83 mol) of 4-ethylbenzaldehyde, 133 g of acetone and 100 ml of water, and the mixture is stirred overnight at room temperature. It is then diluted with 300 ml of ice water and extracted five times, each time with 100 ml of dichloromethane. The extracts are dried over sodium sulfate and concentrated.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 4-ethylbenzaldehyde | C(C)C1=CC=C(C=O)C=C1 | C9H10O
reactant | acetone | 133 g | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 4(4-Ethylphenyl)-3-buten-2-one | C(C)C1=CC=C(C=C1)C=CC(C)=O | C12H14O
